US07342030B2
A solution of 26.72 mL of a 1 M solution of bis-trimethylsilyl lithiumamide in THF was added to a solution of 5-iodo-pyridin-2-ylamine (3 g, 13.36 mmol) in anhydrous THF (30 ml) at 0° C. After warming to r.t. a solution of di-tert-butyl dicarbonate (2.77 g, 12.69 mmol) in THF was added and stirring continued for 16 h. The mixture was quenched with ammonium chloride solution and extracted with ethyl acetate. The extract was washed with brine, dried over Na2SO4 and concentrated. The crude product was washed with diethyl ether yielding (5-iodo-pyridin-2-yl)-carbamic acid tert-butyl ester as light orange solid. Yield 3.45 g, (81%)

reactant | 5-iodo-pyridin-2-ylamine | 13.36 mmol, 3 g | IC=1C=CC(=NC1)N | C5H5IN2
reactant | di-tert-butyl dicarbonate | 12.69 mmol, 2.77 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (5-iodo-pyridin-2-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC=C(C=C1)I)=O | C10H13IN2O2
